US09102692B2
Dioxane (1.5 ml) and an aqueous solution (1.5 ml) of 1 M sodium bicarbonate were added to [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[4-bromo-1-(toluene-4-sulfonyl)-1H-pyrrol-2-yl]-methanone (57 mg), palladium chloride bis-triphenylphosphine complex (10 mg), and phenylboronic acid (37 mg). The mixture was reacted at 140° C. in a microwave reactor for ten minutes. The reaction mixture was diluted with water (5 ml), and then extracted with ethyl acetate. The organic layers were combined, and concentrated under reduced pressure. After HPLC purification, the eluate was desalted using PLHCO3 cartridge (PolymerLabs), and then concentrated under reduced pressure. Thus, [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[4-phenyl-1-(toluene-4-sulfonyl)-1H-pyrrol-2-yl]-methanone was obtained as a yellow powder (15 mg, 26%).

reactant | Dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
reactant | sodium bicarbonate | 1 M, 1.5 ml | C([O-])(O)=O.[Na+]
reactant | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[4-bromo-1-(toluene-4-sulfonyl)-1H-pyrrol-2-yl]-methanone | 57 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C=C(C1)Br)S(=O)(=O)C1=CC=C(C=C1)C | C23H19BrN6O3S
reactant | phenylboronic acid | 37 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | water | 5 ml | O | H2O
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[4-phenyl-1-(toluene-4-sulfonyl)-1H-pyrrol-2-yl]-methanone | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C=C(C1)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C29H24N6O3S
